US04420424
(E) H-Lys(Boc)-Glu(OBut)-Val-Val-OMe.HCl
7 g of Z-Lys(Boc)-Glu(OBut)-Val-Val-OMe are dissolved in 150 ml of methanol. The solution is subjected to catalytic hydrogenation at pH 4.5 after adding Pd-on-BaSO4 and 2 N methanolic hydrochloric acid. When the reaction is complete, the catalyst is filtered off and the filtrate is concentrated. The residue crystallizes on being triturated with ether. Yield 5.45 g, melting point 194°-198°, [α]D23 =-33.1° (c=1, in methanol).

reactant | Z-Lys(Boc)-Glu(OBut)-Val-Val-OMe | 7 g | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C39H63N5O11
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | H-Lys(Boc)-Glu(OBut)-Val-Val-OMe.HCl | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)OC.Cl | InChI=1S/C31H57N5O9.ClH/c1-18(2)23(27(40)36-24(19(3)4)28(41)43-11)35-26(39)21(15-16-22(37)44-30(5,6)7)34-25(38)20(32)14-12-13-17-33-29(42)45-31(8,9)10;/h18-21,23-24H,12-17,32H2,1-11H3,(H,33,42)(H,34,38)(H,35,39)(H,36,40);1H/t20-,21-,23-,24-;/m0./s1
